US08003647B2
3-Benzyloxy-4-methylbenzaldehyde
To a solution of (3-benzyloxy-4-methylphenyl)methanol (1.0 g) in dichloromethane (50 mL) was added manganese dioxide (2.5 g), and this mixture was stirred at room temperature for 2 days. The insoluble material was removed by filtration and this filtrate was concentrated under reduced pressure. This residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.39 g)

reactant | (3-benzyloxy-4-methylphenyl)methanol | 1.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1C)CO | C15H16O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 2.5 g | [O-2].[O-2].[Mn+4]
product | 3-Benzyloxy-4-methylbenzaldehyde | 0.39 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1C | C15H14O2
